US07902373B2
Preparation of 5-chloro-6-(3-fluorophenyl)nicotinic acid
To a round bottom flask was added 5,6-dichloronicotinic acid (500 mg, 2.60 mmol), 3-fluorophenylboronic acid (364 mg, 2.60 mmol), DMF (25 mL), 2 M Cs2CO3 (6 mL) and Pd(Ph3)4 (30.1 mg, 0.0026 mmol). The reaction mixture was heated to 90° C. for 3 hrs and then allowed to cool to rt. The mixture was diluted with ethyl acetate/water and the layers separated. The organic layer was washed with brine, dried (MgSO4) and the solvent removed to give a solid, which was purified by chromatography (silica, DCM/MeOH) to give the desired product, 5-chloro-6-(3-fluorophenyl)nicotinic acid (623 mg, 95%). LC/MS (M+H)=252 observed, 252.02 expected.

reactant | 5,6-dichloronicotinic acid | 2.60 mmol, 500 mg | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | 3-fluorophenylboronic acid | 2.60 mmol, 364 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
reactant | Cs2CO3 | 2 M, 6 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 5-chloro-6-(3-fluorophenyl)nicotinic acid | 623 mg, 95% | ClC=1C(=NC=C(C(=O)O)C1)C1=CC(=CC=C1)F | C12H7ClFNO2
